US06211199B1
3,4,5-trimethoxybenzyl chloride
Combine 3,4,5-trimethoxybenzyl alcohol (1.0 g, 5.04 mmol) and N,N-dimethylaniline (0.904 g, 7.46 mmol) in dichloromethane (10 mL). Cool in an ice bath. Add dropwise thionyl chloride (0.904 g, 7.6 mmol). Warm to ambient temperature. After 1 hour, partition the reaction mixture between a 1 M aqueous hydrochloric acid solution and dichloromethane. Separate the layers and extract the organic layer with a saturated solution of sodium bicarbonate. Dry the organic layer over Na2SO4, filter, and evaporate in vacuo to give the title compound.

reactant | 3,4,5-trimethoxybenzyl alcohol | 5.04 mmol, 1.0 g | COC=1C=C(CO)C=C(C1OC)OC | C10H14O4
reactant | N,N-dimethylaniline | 7.46 mmol, 0.904 g | CN(C1=CC=CC=C1)C | C8H11N
reactant | thionyl chloride | 7.6 mmol, 0.904 g | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 3,4,5-trimethoxybenzyl chloride | COC=1C=C(CCl)C=C(C1OC)OC | C10H13ClO3
